US05807866
(g) (2R)-(+)-Trans-3-(3-bromophenyl)oxiranemethanol
The title compound was prepared from trans-3-(3-bromophenyl)-2-propenol by a sequence analogous to that described above for compound (9a) but using D-(-)-diethyl tartrate. Column chromatography (ethyl acetate--light petroleum (b.p. 40°-60° C.), 3:7) provided the title compound (73%) as a pale yellow oil. Distilled at 160°-185° C. at 0.1 mmHg. using a Kugelrohr short path distillation apparatus as a colourless oil; [α]D25 +37.6 (c=0.020 gml-1, CHCl3).

reactant | trans-3-(3-bromophenyl)-2-propenol | BrC=1C=C(C=CC1)/C=C/CO | C9H9BrO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R)-(+)-Trans-3-(3-bromophenyl)oxiranemethanol | 73% | BrC=1C=C(C=CC1)[C@@H]1[C@H](O1)CO | C9H9BrO2
